US05728835
4-[(2-Methoxyanilino)carbonyl]pyridine
Using o-anisidine (2.34 g, 19.0 mmol) and 4-carboxypyridine (2.29 g, 19.0 mmol), the procedure of Reference Example 11 was repeated to obtain 4.22 g (97.2%) of the title compound in the form of colorless powder.

reactant | o-anisidine | 19.0 mmol, 2.34 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | 4-carboxypyridine | 19.0 mmol, 2.29 g | C(=O)(O)C1=CC=NC=C1 | C6H5NO2
product | 4-[(2-Methoxyanilino)carbonyl]pyridine | 4.22 g, 97.2% | COC1=C(NC(=O)C2=CC=NC=C2)C=CC=C1 | C13H12N2O2
